US05880147
0.64 ml (7.4 mmol) of oxalyl chloride was added to a solution of 1.03 g (3.7 mmol) of 3-(2,4-dimethoxyphenyl)octanoic acid (prepared as described in Preparation 3) and a catalytic amount of dimethylformamide in 10 ml of methylene chloride, and the resulting mixture was stirred for 1 hour. The solvent and an excess of the reagent were removed by distillation under reduced pressure, to give 3-(2,4-dimethoxyphenyl)octanoyl chloride. A solution of this acid chloride in 9 ml of methylene chloride was then added dropwise to an ice-cooled solution of 772 mg (3.7 mmol) of 2-t-butyl-5-methoxycarbonylaniline (prepared as described in Preparation 5) and 2 ml of pyridine in 5 ml of methylene chloride over a period of 2 minutes. The temperature of the mixture was allowed to rise to room temperature, and then the mixture was stirred for 20 minutes. At the end of this time, the reaction was quenched by adding water, the reaction mixture was diluted with a 1:1 by volume mixture of ethyl acetate and hexane and the diluted solution was washed with water, with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the resulting residue was purified by column chromatography through 100 g of silica gel, using a 2:3 by volume mixture of ethyl acetate and hexane as the eluent, to give 1.66 g (yield 96%) of the title compound as an oily substance.

reactant | oxalyl chloride | 7.4 mmol, 0.64 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(2,4-dimethoxyphenyl)octanoic acid | 3.7 mmol, 1.03 g | COC1=C(C=CC(=C1)OC)C(CC(=O)O)CCCCC | C16H24O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(2,4-dimethoxyphenyl)octanoyl chloride | COC1=C(C=CC(=C1)OC)C(CC(=O)Cl)CCCCC | C16H23ClO3
